US07256198B2
Step 1: 5-{[(2R)-2-(Methoxymethyl)pyrrolidin-1-yl]sulfonyl}-1H-indole-2,3-dione
To a stirred cold suspension of 2,3-dioxo-2,3-dihydro-1H-indol-5-sulfonyl chloride (5.00 g, 20.4 mmol) in a 1:1 mixture of THF: CHCl3 (140 mL) was added dropwise, via syringe pump, a solution of N,N-diisopropylethylamine (7.11 mL, 40.8 mmol, 2 eq) and (R)-2-(Methoxymethyl)pyrrolidine (3.27 mL, 26.5 mmol, 1.3 eq) in CHCl3 (60 mL) over a period of 1.5 hours with cooling in an ice bath. After stirring an additional 1 h, the reaction was concentrated. The crude product was purified on Biotage KP silica gel eluting with 95/5 CH2Cl2/CH3OH followed by a second chromatography on silica gel eluting with EtOAc to give 4.21 g (63.8% ) of the title compound. NMR (400 MHz, DMSO-d6): consistent.

reactant | 2,3-dioxo-2,3-dihydro-1H-indol-5-sulfonyl chloride | 20.4 mmol, 5.00 g | O=C1NC2=CC=C(C=C2C1=O)S(=O)(=O)Cl | C8H4ClNO4S
reactant | THF | C1CCOC1 | C4H8O
reactant | N,N-diisopropylethylamine | 40.8 mmol, 7.11 mL, 2 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (R)-2-(Methoxymethyl)pyrrolidine | 26.5 mmol, 3.27 mL, 1.3 eq | COC[C@@H]1NCCC1 | C6H13NO
solvent | CHCl3 | 60 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 140 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-{[(2R)-2-(Methoxymethyl)pyrrolidin-1-yl]sulfonyl}-1H-indole-2,3-dione | 4.21 g, 63.8% | COC[C@@H]1N(CCC1)S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O | C14H16N2O5S
